US04752648
(preparation of phenyldichlorophosphine)
38.5 g (0.34 mol) phenylphosphine dissolved in 40 ml toluene was added at 25° C. to a suspension of 160 g PCl5 (0.77 mol) in 500 ml toluene. After the exothermal reaction had subsided, the whole was heated to 70° C. until gas ceased to be evolved. The low boilers were removed under vacuum. The crude product yield was 67 g; 31P-NMR: δ P=161 ppm, C6H5PCl2, 94.4 mol%. The residue was distilled under vacuum. bp 98° C./17 mbar; yield: 50.6 g (81% of the theoretical).

reactant | phenylphosphine | 0.34 mol, 38.5 g | C1(=CC=CC=C1)P | C6H7P
reactant | PCl5 | 0.77 mol, 160 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | phenyldichlorophosphine | C1(=CC=CC=C1)P(Cl)Cl | C6H5Cl2P
